US07169520B2
10-phenylphenothiazine.
A mixture of phenothiazine (15 g, 0.075 mol), 23 g (0.11 mol) of iodobenzene, 9.6 g (0.150 mol) of copper powder, 35.3 g (0.26 mol) of potassium carbonate, and 1.98 g (0.0075 mol) of 18-crown-6 in 20 ml of 1,2-dichlorobenzene was reflux under nitrogen for 24 hour. The inorganic components were removed by filtering the hot reaction mixture. The crude product formed crystals from the reaction mixture. The product was purified by recrystallization from methanol. The yield of 10-phenylphenothiazine was 12.4 g (60%). The product had a melting point of 93–94° C. (recrystallized from methanol). A 1H NMR spectrum yielded the following results (100 MHz, CDCl3, δ, ppm): 6.0–6.45 (m, 2H, Ar), 6.68–7.20(m, 6H Ar), 7.22–7.68(m, 5H, Ar).

reactant | phenothiazine | 0.075 mol, 15 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | iodobenzene | 0.11 mol, 23 g | IC1=CC=CC=C1 | C6H5I
reactant | potassium carbonate | 0.26 mol, 35.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 0.0075 mol, 1.98 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | 1,2-dichlorobenzene | 20 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | copper | 0.150 mol, 9.6 g | [Cu] | Cu
product | 10-phenylphenothiazine | C1(=CC=CC=C1)N1C2=CC=CC=C2SC=2C=CC=CC12 | C18H13NS
